US05045552
2-[{4-(4-Methoxybutoxy)-3-methylpyridine-2-yl}methylthio]-1H-benzimidazole
611 mg of triethylamine and 686 mg of methanesulfonyl chloride were added to a solution of 0.84 g of crude 2-hydroxy-4-(4-methoxybutoxy)-3-methylpyridine in 30 ml of dichloromethane at -20° C. under stirring and dehumidifying to obtain a mixture. This mixture was gradually brought to a room temperature, followed by the addition of a saturated aqueous solution of sodium hydrogencarbonate. The obtained mixture was stirred for 30 minutes and extracted with chloroform. The extract was dried over magnesium sulfate and distilled under a reduced pressure to remove the chloroform. Thus, a red oil was obtained. 560 mg of 2-mercapto-1H-benzimidazole and 30 ml of ethanol were added to this oil. The obtained mixture was stirred at a room temperature for 30 minutes, made basic with a 2N aqueous solution of sodium carbonate and extracted with chloroform. The extract was dried over magnesium sulfate and distilled under a reduced pressure to remove the chloroform. The obtained residue was chromatographed over a silica gel column and eluted with ethyl acetate/n-hexane to obtain 0.42 g of an oil.

reactant | methanesulfonyl chloride | 686 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-hydroxy-4-(4-methoxybutoxy)-3-methylpyridine | 0.84 g | OC1=NC=CC(=C1C)OCCCCOC | C11H17NO3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | 2-mercapto-1H-benzimidazole | 560 mg | SC1=NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | triethylamine | 611 mg | C(C)N(CC)CC | C6H15N
product | 2-[{4-(4-Methoxybutoxy)-3-methylpyridine-2-yl}methylthio]-1H-benzimidazole | 0.42 g | COCCCCOC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=CC=C2)C | C19H23N3O2S
